Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain  
 
Major Surgical or Invasive Procedure:
Cardiac catheterization with stenting with drug eluting stent to 
the left circumflex

 
History of Present Illness:
___ year old woman with diastolic CHF, COPD, DM, HTN, HLD, and 
CAD (h/o MI in ___ with LAD stenting, repeat stenting with DES 
in ___ and ___, who presents with chest pain. She has been 
having chest pain episodes over the past 2 weeks. A tightness 
located in the ___ her chest that usually occurs with 
exertion or when lying flat at night, but she has also 
experienced at rest. It radiates to the left arm, and is 
relieved with NTG. It is not pleuritic, but is reproducible when 
she presses over the ___ her chest. Somewhat different 
from the chest pain that she had prior to her previous PCIs. 
Associated with dsyspnea and lightheadedness. She came to the ED 
today after having a more severe episode yesterday.  
.  
In the ED initial VS were: 97.5, 67, 127/73, 16, 100%RA. EKG 
showed SR with non-specific ST and T changes. CXR negative for 
acute process. Labs notable for negative troponin but Creat 1.7 
(was 1.4 in ___ and normal prior to that). She received ASA 
325mg. VS prior to transfer were: 97.6, 70, 119/60, 16, 99%RA.  
.  
On arrival to the floor, patient is comfortable and denies chest 
pain.  
.  
REVIEW OF SYSTEMS: As noted in HPI. In addition, denies fevers, 
chills, sweats, presyncope, syncope, cough, PND, orthopnea, leg 
swelling, abdominal pain, nausea, vomiting, hematemesis, 
diarrhea, constipation, red or black stools, dysuria, hematuria, 
myalgias, arthralgias, or rash. No history of DVT or PE.  

 
Past Medical History:
- CAD: MI in ___ with LAD stenting, repeat stenting with DES in 
 
___ and ___  
- Diastolic CHF  
- DM  
- HTN  
- HLD  
- COPD  
- Depression  
- Right shoulder pain (bursitis, rotator cuff injury)  
 
Social History:
___
Family History:
She was a ward of the ___ and does not know her family.  

 
Physical Exam:
Admission physical exam:
VS: 98, 139/76, 71, 18, 100% RA  
GENERAL: WDWN woman in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK: Supple. JVP not elevated.  
CARDIAC: RR, normal S1, S2. No m/r/g. No S3 or S4. Pain 
reproducible with palpation over ___ chest and left 
breast.  
LUNGS: Resp unlabored, no accessory muscle use. CTAB.  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominial bruits.  
EXTREMITIES: No edema. WWP.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Right: Carotid 2+ Femoral 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ DP 2+ ___ 2+
.
Discharge physical exam: 
Vitals: Tc 98.1 BP 169/82 (130-169/63-86) HR 71 (70-77) RR 18 O2 
Sat 98% RA 
General: Patient lying in bed in NAD
HEENT: EOMI. MMM.
Neck: Supple. No JVD appreciated.
CV: RRR. No M/R/G
Lungs: Clear to auscultation bilaterally. No crackles or 
wheezes. Nml work of breathing.
Abd: Obese. NABS+. Soft. NT/ND.
Ext: WWP. 2+ DPs bilaterally. No clubbing, cyanosis, or edema.
 
Pertinent Results:
Admission labs:
___ 10:10PM BLOOD WBC-10.9 RBC-3.78* Hgb-12.4 Hct-36.9 
MCV-98 MCH-32.7* MCHC-33.6 RDW-12.5 Plt ___
___ 10:10PM BLOOD Neuts-58.7 ___ Monos-4.6 Eos-1.9 
Baso-0.7
___ 06:05AM BLOOD ___ PTT-27.8 ___
___ 10:10PM BLOOD Glucose-338* UreaN-32* Creat-1.7* Na-134 
K-4.3 Cl-100 HCO3-21* AnGap-17
___ 10:10PM BLOOD cTropnT-<0.01

Discharge labs:
___ 06:05AM BLOOD WBC-10.1 RBC-3.74* Hgb-12.5 Hct-35.5* 
MCV-95 MCH-33.5* MCHC-35.2* RDW-12.8 Plt ___
___ 06:05AM BLOOD Glucose-99 UreaN-29* Creat-1.4* Na-135 
K-3.5 Cl-102 HCO3-26 AnGap-11
___ 06:05AM BLOOD Calcium-9.0 Phos-4.3 Mg-2.0

Cardiac enzymes:
___ 06:05AM BLOOD CK(CPK)-61
___ 06:05AM BLOOD CK-MB-2 cTropnT-<0.01
___ 10:10PM BLOOD cTropnT-<0.01

EKG:
Sinus rhythm at a rate of 69. Normal axis. The PR interval is 
prolonged at 204ms (slightly more than prior ekg). Q wave in 
III. Non-specific ST and T changes.

Nuclear Stress Test: 
INTERPRETATION:  
The image quality is adequate but limited due to soft tissue and 
breast attenuation. There is activity adjacent to the heart in 
the rest and stress images. 
Left ventricular cavity size is increased. 
Rest and stress perfusion images reveal a reversible, moderate 
reduction in photon counts involving the mid and basal 
inferolateral walls and the distal lateral wall. Gated images 
reveal normal wall motion.  
The calculated left ventricular ejection fraction is 52% with an 
EDV of 107 ml (reprocessed at workstation).  
IMPRESSION: 
1. Reversible, medium sized, moderate severity perfusion defect 
involving the LCx territory. 
2. Increased left ventricular cavity size with normal systolic 
function. 
Compared to the prior study of ___, the defect is new. 
.
Cardiac catheterization:
COMMENTS:      
1. Selective coronary angiography of this right-dominant system 
demonstrated three-vessel coronary artery disease.  The ___ did 
not 
have angiographically-apparent flow-limiting stenoses.  The LAD 
had 60% 
in-stent restenosis at the junction of the old Cypher stent 
placed in 
___ and the new Promus stent placed in ___ the D2 branch was 
jailed 
with 60% origin stenosis.  The LCx had a 50% stenosis at its 
origin; 
there was a 90% stenosis of the OM1 branch.  The mid-RCA had a 
50% 
stenosis. 
2. Limited resting hemodynamics revealed mild systemic arterial 
hypertension, with a central aortic pressure of 142/74 mmHg. 
3. Successful PTCA and stenting of OM1 with a 3.0x15mm PROMUS 
stent 
which was postdilated to 3.5mm. Final angiography revealed no 
residual 
stenosis, no angiographically apparent dissection and TIMI III 
flow (see 
PTCA comments). 
FINAL DIAGNOSIS:     
1. Three vessel coronary artery disease. 
2. Successful PTCA and stenting of the OM1 with a DES. 
.

 
Brief Hospital Course:
# Unstable angina: Description of the pain was somewhat atypical 
for angina in that she experiences in when she lays down and it 
is also reproducible. However, given her history of CAD status 
post multiple PCIs and many risk factors, the patient underwent 
stress test to rule out CAD. Nuclear stress test showed a 
reversible, medium sized, moderate severity perfusion defect 
involving the left circumflex territory. In light of these 
stress test findings, the patient underwent cardiac 
catheterization. Prior to cardiac catheterization, she was 
prehydrated given her acute kidney injury. The patient had a 
drug-eluting stent placed to the obtuse marginal branch. The 
patient became acutely hypertensive during cardiac 
catheterization and was started on a nitroglycerin drip (see 
discussion below). The patient was weaned from this quickly. The 
patient was continued on aspirin (full-dose), plavix, 
metoprolol, and imdur. Her home dose of atorvastatin was 
increased given evidence of coronary artery disease. Serial 
cardiac enzymes were negative times 3.
   OUTPATIENT ISSUES: Patient is to continue taking aspirin 
325mg and plavix 75mg daily for the next year. Patient will have 
cardiology follow-up as an outpatient with the ___ 
___ ___ group in ___. 
.  
# Acute kidney injury: Creatinine currently 1.7, up from 1.4 in 
___. Renal function previously was normal. Upon admission, 
the patient's lisinopril and furosemide were discontinued. Of 
note, hte patient was started on furosemide approximately ___ 
months ago, which coincides with the development of the 
patient's elevated serum creatinine. Serum creatinine was 
trended through the admission and improved. The patient was 
restarted on her home lisinopril, though her serum creatinine 
was noticed to be increasing so was discontinued with 
instructions to restart this medication after follow-up with her 
primary care physician. The patient was instructed to have a 
basic metabolic panel drawn ___. 
.  
# Diastolic heart failure: Patient was euvolemic through her 
admission. Her home lasix was discontinued during this admission 
given her acute kidney injury. The patient will follow-up with 
her primary care physician regarding ___ of lasix. 
   OUTPATIENT ISSUES: Outpatient BMP for monitoring of serum 
creatinine and reinitiation of lasix by the primary care 
physician. 
.  
# Type 2 Diabetes Melltius, insulin dependent: Moderately 
controlled with last A1c 7.9% in ___. Lantus and sliding 
scale was continued through the hospitalization. She was 
discharged home on her home doses of lantus and her home insulin 
sliding scale.   
.
# Hypertension: Through most of the patient's admission, her 
blood pressure was  well controlled (goal <130/80). She was 
continued on metoprolol and imdur, though furosemide and 
lisinopril were discontinued in light of the patient's elevated 
serum creatinine. However, during the patient's cardiac 
catheterization, she was noted to have elevated systolic blood 
pressures and was started on a nitroglycerin drip for control of 
blood pressures. The patient was weaned from the nitroglycerin 
drip with in 4 hours after cardiac catheterization. The patient 
received a dose of lisinopril, but because of rising serum 
creatinine, the patient's next dose was held. 
   OUTPATIENT ISSUES: Follow-up with primary care physician 
regarding recent hospitalization and anti-hypertensive regimen 
in light of elevated serum creatinine.  
.
# Hyperlipidemia: Well controlled with last LDL 50 in ___ 
(goal LDL<70), though triglycerides mildly elevated.  
Atorvastatin was increased to 80mg daily given the new CAD 
lesions. Patient also had a fasting lipid panel that was drawn, 
which was pending at time of discharge.
   OUTPATIENT ISSUES: Follow-up of pending fasting lipid panel.  

. 
# COPD: Currently asymptomatic. Patient was continue fluticasone 
and albuterol as needed.   

 
Medications on Admission:
- Clopidogrel 75 mg daily  
- Asprin 325 mg daily  
- Atorvastatin 40 mg daily  
- Lisinopril 10 mg daily  
- Metoprolol succinate 100 mg daily  
- Isosorbide mononitrate 30 mg daily  
- Furosemide 20 mg daily  
- Nitroglycerin 0.4 mg SL prn  
- Glargine insulin 80 units QHS  
- Lispro insulin sliding scale  
- Albuterol 90 mcg, 2 puffs Q4-6 hrs prn  
- Fluticasone 110 mcg, 2 puffs BID  
- Pantoprazole 40 mg BID  
- Oxycode-Acetaminophen 5 mg-325 mg Q8h prn pain  
- Potassium chloride 20 mEq BID  
- Cholecalciferol 1,000 unit daily  
- Metronidazole 0.75% lotion for ___  

 
Discharge Medications:
1. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
3. atorvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. metoprolol succinate 100 mg Tablet Extended Release 24 hr 
Sig: One (1) Tablet Extended Release 24 hr PO once a day.  
5. isosorbide mononitrate 30 mg Tablet Extended Release 24 hr 
Sig: One (1) Tablet Extended Release 24 hr PO DAILY (Daily).  
6. nitroglycerin 0.4 mg Tablet, Sublingual Sig: One (1) tablet  
Sublingual PRN  as needed for chest pain.  
7. insulin glargine 100 unit/mL Solution Sig: Eighty (80) units 
Subcutaneous at bedtime.  
8. insulin lispro 100 unit/mL Solution Sig: Sliding scale units 
of insulin Subcutaneous three times a day: As directed by 
outpatient provider .  
9. albuterol sulfate 90 mcg/actuation HFA Aerosol Inhaler Sig: 
Two (2) Puff Inhalation every ___ hours as needed for SOB, 
wheezing.  
10. fluticasone 110 mcg/actuation Aerosol Sig: Two (2) Puff 
Inhalation BID (2 times a day).  
11. pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).  
12. oxycodone-acetaminophen ___ mg Tablet Sig: One (1) Tablet 
PO Q8H (every 8 hours) as needed for pain.  
13. cholecalciferol (vitamin D3) 1,000 unit Capsule Sig: One (1) 
Capsule PO once a day.  
14. metronidazole 0.75 % Lotion Sig: One (1) application  
Topical as directed .  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Atypical chest pain

Secondary diagnosis:
Coronary artery disease 
Hypertension
Hyperlipidemia
Type 2 Diabetes Mellitus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of you during your hospitalization 
at ___. 

You were hospitalized with chest pain and had a nuclear stress 
test that was abnormal. You subsequently had a cardiac 
catheterization and you were found to have a blockage in the 
left circumflex coronary artery (one of the heart vessels). 

Take all medication as instructed. Please note the following 
medication changes:
1. Stop taking your potassium supplement for now, as your 
potassium levels were normal in the hospital.
2. Increase your atorvastatin (lipitor) dose from 40mg to 80mg 
daily.
3. Stop your lisinopril and lasix (furosemide) until otherwise 
instructed by your primary care physician. You will need repeat 
bloodwork on ___, which should be sent to your 
primary care physician, ___.

Keep all hospital follow-up appointments. Your up-coming 
appointments are listed below. 
 
Followup Instructions:
___